US05962462
A solution of 99 g (489 mmol) of 1'-methylspiro(indoline-3,4'-piperidine) (prepared according to Ong, H. H. et al, J. Med. Chem., 1983, 26, 981-986) in 1 L of CH2Cl2 and 82 mL (539 mmol) of Et3N was cooled to 0-5° C. with an ice bath and 77 mL (539 mmol) of benzyl chloroformate was added over 30 min keeping the reaction temperature below 10° C. After stirring for 2 h 19 mL (136 mmol) of Et3N and 15 mL (105 mmol) of benzyl chloroformate were added since the reaction was incomplete and stirred for 2 h. At this time, additional 19 mL (136 mmol) of Et3N and 15 mL (105 mmol) of benzyl chloroformate were added. After 1 h, when a TLC indicated a complete reaction, the solution was concentrated in vacuo and the residue was partitioned between ether and saturated NaHCO3. The layers were separated, the organic layer was washed with saturated NaHCO3 and brine, and dried over MgSO4. The filtrate was concentrated and the residue was chromatographed on 2 kg of silica gel using 1-5% MeOH/CH2Cl2 to obtain 117 g (71%) of 1-benzyloxycarbonyl-1'-methylspiro(indoline-3,4'-piperidine) as a yellow oil. The yellow oil was dissolved in 800 mL of 1,2-dichloroethane and cooled in ice bath as 50 mL (463 mmol) of 1-chloroethyl chloroformate keeping the temperature below 10° C. The resulting solution was heated to reflux. Gas evolution was noticed when the reaction temperature reached 70-75° C. After 1 h the solution was cooled, concentrated to ca. 250 mL in vacuo and 700 mL of methanol was added. The mixture was refluxed for 1.5 h and gas evolution was observed. The reaction was cooled to room temperature and concentrated in vacuo to a wet solid. The solid was slurried with cold methanol, the solid was filtered, washed with cold methanol and dried. The filtrates and the washing were combined and concentrated to a brown foam. The brown foam and the filtered solid were suspended in CH2Cl2, washed with 2.5 N NaOH and the CH2Cl2 solution was dried. The residue was chromatographed on 2 kg of silica gel using a gradient of 94:5:1 to 89:10:1 CH2Cl2, methanol, NH4OH to isolate 91.3 g of free base as a brown oil. The oil was dissolved in 1 L of EtOAc by adding methanol (ca. 10 mL) and HCl gas was passed through the solution. After stirring the acidic solution for 10 min, it was concentrated to a foam. The foam was triturated with ether and the solid was filtered, washed with more ether and dried to furnish 91.5 g (73%) of title compound as a light yellow solid.

reactant | 1'-methylspiro(indoline-3,4'-piperidine) | 489 mmol, 99 g | CN1CCC2(CC1)CNC1=CC=CC=C12 | C13H18N2
reactant | Et3N | 539 mmol, 82 mL | CCN(CC)CC | C6H15N
reactant | benzyl chloroformate | 539 mmol, 77 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | Et3N | 136 mmol, 19 mL | CCN(CC)CC | C6H15N
reactant | benzyl chloroformate | 105 mmol, 15 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | Et3N | 136 mmol, 19 mL | CCN(CC)CC | C6H15N
reactant | benzyl chloroformate | 105 mmol, 15 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
product | 1-benzyloxycarbonyl-1'-methylspiro(indoline-3,4'-piperidine) | 117 g, 71% | C(C1=CC=CC=C1)OC(=O)N1CC2(CCN(CC2)C)C2=CC=CC=C12 | C21H24N2O2
